US08445499B2
Step 2: tert-butyl 1′-[6-(methylthio)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate
The tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate (100 mg, 0.26 mmol) was dissolved in NMP (2.6 mL), and sodium methanethiolate (18.2 mg, 0.26 mmol) was added. The reaction was stirred at r.t. for 30 min. The reaction crude was diluted with ethyl acetate (10 mL) and was washed with water (10 mL, ×1) and brine (10 mL, ×1), dried over magnesium sulfate, filtered and concentrated by rotavapor. The crude mixture was purified by preparative TLC with 30% ethylacetate:hexane to yield the title compound.

reactant | tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate | 0.26 mmol, 100 mg | ClC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H29ClN4O2
reactant | sodium methanethiolate | 0.26 mmol, 18.2 mg | C[S-].[Na+]
solvent | NMP | 2.6 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1′-[6-(methylthio)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate | CSC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H32N4O2S
